US07902369B2
2) Manufacture of 4-bromo-1-(2-fluorophenyl)-3-methyl-1H-pyrazole
580 mg of 4-bromo-3-methylpyrazole, 1.0 g of 2-fluorophenylboric acid, 3.3 g of copper acetate, 1.0 g of molecular sieves 4A, and 1.6 ml of pyridine were suspended in 8.0 ml of dimethylformamide, and the mixture was stirred at room temperature for 3 days. The obtained suspended solution was filtrated by celite, and the filtrate was diluted with ethyl acetate. Organic layer was washed with 0.5 N sodium hydride, dried with sodium sulfate, and the solvents were distilled outunder reduced pressure. The residues were purified by silicagel column chromatography (hexane:ethyl acetate=50:50) to obtain 78 mg of the above compound as a crude product.

reactant | 4-bromo-3-methylpyrazole | 580 mg | BrC=1C(=NNC1)C | C4H5BrN2
reactant | 2-fluorophenylboric acid | 1.0 g | FC1=C(C=CC=C1)OB(O)O | C6H6BFO3
reactant | pyridine | 1.6 ml | N1=CC=CC=C1 | C5H5N
solvent | dimethylformamide | 8.0 ml | CN(C=O)C | C3H7NO
catalyst | copper acetate | 3.3 g | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
product | 4-bromo-1-(2-fluorophenyl)-3-methyl-1H-pyrazole | 78 mg | BrC=1C(=NN(C1)C1=C(C=CC=C1)F)C | C10H8BrFN2
